US07943788B2
5-Bromo-2-chloro-1-(5-methoxybenzo[b]thiophen-2-ylmethyl)-benzene
5-Methoxybenzo[b]thiophene (see WO 97/25033) and 5-bromo-2-chlorobenzaldehyde obtained in Reference Example 16-(1) were treated in a manner similar to Reference Example 9 to give the target compound. APCI-Mass m/Z 367/369 (M+H).

reactant | 5-Methoxybenzo[b]thiophene | COC1=CC2=C(SC=C2)C=C1 | C9H8OS
reactant | 5-bromo-2-chlorobenzaldehyde | BrC=1C=CC(=C(C=O)C1)Cl | C7H4BrClO
product | 5-Bromo-2-chloro-1-(5-methoxybenzo[b]thiophen-2-ylmethyl)-benzene | BrC=1C=CC(=C(C1)CC1=CC2=C(S1)C=CC(=C2)OC)Cl | C16H12BrClOS
